US06867210B2
1-[4-[4-(4-Fluorophenoxy)phenyl]-pyrimidine-2-yl]-ethanone
4-[4-(4-Fluorophenoxy)phenyl]-pyrimidine-2-carboxylic acid ethyl ester: A mixture of 4-[4-(4-fluorophenoxy)phenyl]-pyrimidine-2-carboxylic acid (3.15 g, 10.2 mmol), iodoethane (2.0 mL, 25 mmol), and cesium carbonate (7.00 g, 21.5 mmol) in DMF (100 mL) was maintained at 70°-80° C. for 16 hours. The mixture was then partitioned between water and ethyl acetate. The aqueous layer was extracted twice with ethyl acetate. The combined organic layers were washed 3 times with water, dried over sodium sulfate, filtered, and evaporated under reduced pressure to give an oil. Purification by column chromatography (1:1 hexane/ethyl acetate) afforded the desired product (2.14 g, 62%) as an oil which solidified upon standing at room temperature overnight, mp 61°-63° C. 1H NMR (CDCl3): δ 8.88 (d, J=5.4 Hz, 1H), 8.16 (d, J=8.7 Hz, 2H), 7.77 (d, J=5.4 Hz, 1H), 7.12-7.05 (m, 6H), 4.55 (q, J=7.5 Hz, 2H), 1.49 (t, J=7.5 Hz, 3H).

reactant | 4-[4-(4-Fluorophenoxy)phenyl]-pyrimidine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC=CC(=N1)C1=CC=C(C=C1)OC1=CC=C(C=C1)F | C19H15FN2O3
reactant | 4-[4-(4-fluorophenoxy)phenyl]-pyrimidine-2-carboxylic acid | 10.2 mmol, 3.15 g | FC1=CC=C(OC2=CC=C(C=C2)C2=NC(=NC=C2)C(=O)O)C=C1 | C17H11FN2O3
reactant | iodoethane | 25 mmol, 2.0 mL | ICC | C2H5I
reactant | cesium carbonate | 21.5 mmol, 7.00 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 1-[4-[4-(4-Fluorophenoxy)phenyl]-pyrimidine-2-yl]-ethanone | 2.14 g, 62% | FC1=CC=C(OC2=CC=C(C=C2)C2=NC(=NC=C2)C(C)=O)C=C1 | C18H13FN2O2
